US08476255B2
Preparation of 4-((2-(4-fluorophenyl)-3-(3,4,5-trimethoxyphenyl)acrylamido)methyl)-N-hydroxybenzamide
Hydroxylamine hydrochloride (1.25 g, 18 mmol) in methanol (3 mL) was mixed with KOH (1.0 g, 18 mmol) in methanol (6 mL) at 0° C. and the reaction mixture was sonicated for 5 minutes. A white precipitate was formed which was filtered. The filtrate was immediately added to the ethyl 4-((2-(4-fluorophenyl)-3-(3,4,5-trimethoxyphenyl)acrylamido)methyl)benzoate (0.4 g, 1 mmol) followed by the addition of KOH (0.084 g, 1.5 mmol) and the mixture was stirred at room temperature for 1 hour. Around 20 mL of water was added to the reaction mixture and it was neutralized to pH 7 by addition of dilute acetic acid. Upon standing, a colorless precipitate was formed, it was filtered, dried and triturated with dichloromethane/hexanes (1:1, 20 mL), to afford the required compound as a pure colorless solid (0.254 g, 38% yield). 1H NMR (DMSO-d6) δ (ppm): 3.49 (61-1, s, —OCH3), 3.60 (3H, s, —OCH3), 4.36 (2H, d, —CH2), 6.32 (2H, s, Ar—H), 7.29-7.39 (6H, d, Ar—H), 7.48 (1H, s, ═CH), 7.69 (2H, d, Ar—H), 7.96 (1H, t, —NH), 8.99 (1H, s, —OH), 11.16 (1H, s, —NH); MS m/z: 497.1 (M++1).

reactant | Hydroxylamine hydrochloride | 18 mmol, 1.25 g | Cl.NO
reactant | KOH | 18 mmol, 1.0 g | [OH-].[K+]
reactant | ethyl 4-((2-(4-fluorophenyl)-3-(3,4,5-trimethoxyphenyl)acrylamido)methyl)benzoate | 1 mmol, 0.4 g | FC1=CC=C(C=C1)C(C(=O)NCC1=CC=C(C(=O)OCC)C=C1)=CC1=CC(=C(C(=C1)OC)OC)OC | C28H28FNO6
reactant | KOH | 1.5 mmol, 0.084 g | [OH-].[K+]
reactant | water | 20 mL | O | H2O
solvent | methanol | 3 mL | CO | CH4O
solvent | methanol | 6 mL | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-((2-(4-fluorophenyl)-3-(3,4,5-trimethoxyphenyl)acrylamido)methyl)-N-hydroxybenzamide | 0.254 g, 38% yield | FC1=CC=C(C=C1)C(C(=O)NCC1=CC=C(C(=O)NO)C=C1)=CC1=CC(=C(C(=C1)OC)OC)OC | C26H25FN2O6
